US07863291B2
To 3,5-dichloro-2-isothiocyanatopyridine (0.11 g, 0.55 mmol) in N,N-dimethylformamide (10 mL) was added Et3N (0.17 mL, 1.21 mmol) and (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.13 g, 0.56 mmol) at room temperature. The reaction was stirred at 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo. The crude urea was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH). The product was then treated with N,N-dimethylformamide (10 mL) and N,N′-diisopropylcarbodiimide (0.26 mL, 1.65 mmol). The reaction was heated to 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo to yield the crude product. The crude product was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH) to yield (R)—N-(3,5-dichloropyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.08 g, 0.24 mmol, 44% yield) as a white powder. 1H NMR (500 MHz, DMSO-D6) δ ppm 8.91 (s, 1 H), 8.11-8.17 (m, 1 H), 7.97 (d, J=2.44 Hz, 1 H), 3.84 (d, J=9.77 Hz, 1 H), 3.59 (d, J=9.77 Hz, 1 H), 2.95-3.04 (m, 2 H), 2.72-2.81 (m, 2 H), 2.66 (t, J=7.63 Hz, 2 H), 2.01 (s, 1 H), 1.89 (s, 1 H), 1.54-1.62 (m, 2 H), 1.42-1.50 (m, 1 H). MS (LC/MS) R.T.=0.78; [M+]+=326.1.

reactant | 3,5-dichloro-2-isothiocyanatopyridine | 0.55 mmol, 0.11 g | ClC=1C(=NC=C(C1)Cl)N=C=S | C6H2Cl2N2S
reactant | Et3N | 1.21 mmol, 0.17 mL | CCN(CC)CC | C6H15N
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.56 mmol, 0.13 g | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | N,N′-diisopropylcarbodiimide | 1.65 mmol, 0.26 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (R)—N-(3,5-dichloropyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.24 mmol, 0.08 g, 44% yield | ClC=1C(=NC=C(C1)Cl)NC=1O[C@]2(CN3CCC2CC3)CN1 | C14H16Cl2N4O
